*MOLTIPLICATORE CARRY SAVE

.option filetype=ascii

.INCLUDE ST65LIKE_cell_library_v2020_1.net
.INCLUDE 16nm_HP.pm
.INCLUDE param.net

.subckt AND_ARRAY_SUB	0 Vdd out0 out1 out2 out3 out4 out5 out6 out7 out8 out9 out10 out11 out12 out13 out14 out15 x0 x1 x2 x3 x4 x5 x6 x7 x8 x9 x10 x11 x12 x13 x14 x15 y	XX=1
xand0	0 Vdd out0 x0 y	AND2_SUB XX=XXX
xand1	0 Vdd out1 x1 y	AND2_SUB XX=XXX
xand2	0 Vdd out2 x2 y	AND2_SUB XX=XXX
xand3	0 Vdd out3 x3 y	AND2_SUB XX=XXX
xand4	0 Vdd out4 x4 y	AND2_SUB XX=XXX
xand5	0 Vdd out5 x5 y	AND2_SUB XX=XXX
xand6	0 Vdd out6 x6 y	AND2_SUB XX=XXX
xand7	0 Vdd out7 x7 y	AND2_SUB XX=XXX
xand8	0 Vdd out8 x8 y	AND2_SUB XX=XXX
xand9	0 Vdd out9 x9 y	AND2_SUB XX=XXX
xand10	0 Vdd out10 x10 y	AND2_SUB XX=XXX
xand11	0 Vdd out11 x11 y	AND2_SUB XX=XXX
xand12	0 Vdd out12 x12 y	AND2_SUB XX=XXX
xand13	0 Vdd out13 x13 y	AND2_SUB XX=XXX
xand14	0 Vdd out14 x14 y	AND2_SUB XX=XXX
xand15	0 Vdd out15 x15 y	AND2_SUB XX=XXX
.ends 

.subckt ADD_ARRAY_SUB	0 Vdd sum0 sum1 sum2 sum3 sum4 sum5 sum6 sum7 sum8 sum9 sum10 sum11 sum12 sum13 sum14 sum15  Cout0  Cout1  Cout2  Cout3  Cout4  Cout5  Cout6  Cout7  Cout8  Cout9  Cout10  Cout11  Cout12  Cout13  Cout14  Cout15 a0 a1 a2 a3 a4 a5 a6 a7 a8 a9 a10 a11 a12 a13 a14 a15 b0 b1 b2 b3 b4 b5 b6 b7 b8 b9 b10 b11 b12 b13 b14 b15 	XX=1
xadd0	 0 vdd sum0 cout0 cin0 b0 a0	 FA_SUB XX=XXX
xadd1	 0 vdd sum1 cout1 cin1 b1 a1	 FA_SUB XX=XXX
xadd2	 0 vdd sum2 cout2 cin2 b2 a2	 FA_SUB XX=XXX
xadd3	 0 vdd sum3 cout3 cin3 b3 a3	 FA_SUB XX=XXX
xadd4	 0 vdd sum4 cout4 cin4 b4 a4	 FA_SUB XX=XXX
xadd5	 0 vdd sum5 cout5 cin5 b5 a5	 FA_SUB XX=XXX
xadd6	 0 vdd sum6 cout6 cin6 b6 a6	 FA_SUB XX=XXX
xadd7	 0 vdd sum7 cout7 cin7 b7 a7	 FA_SUB XX=XXX
xadd8	 0 vdd sum8 cout8 cin8 b8 a8	 FA_SUB XX=XXX
xadd9	 0 vdd sum9 cout9 cin9 b9 a9	 FA_SUB XX=XXX
xadd10	 0 vdd sum10 cout10 cin10 b10 a10	 FA_SUB XX=XXX
xadd11	 0 vdd sum11 cout11 cin11 b11 a11	 FA_SUB XX=XXX
xadd12	 0 vdd sum12 cout12 cin12 b12 a12	 FA_SUB XX=XXX
xadd13	 0 vdd sum13 cout13 cin13 b13 a13	 FA_SUB XX=XXX
xadd14	 0 vdd sum14 cout14 cin14 b14 a14	 FA_SUB XX=XXX
xadd15	 0 vdd sum15 cout15 cin15 b15 a15	 FA_SUB XX=XXX
.ends 

.subckt MCS_SUB	0 Vdd out0 out1 out2 out3 out4 out5 out6 out7 out8 out9 out10 out11 out12 out13 out14 out15 x0 x1 x2 x3 x4 x5 x6 x7 x8 x9 x10 x11 x12 x13 x14 x15 y0 y1 y2 y3 y4 y5 y6 y7 y8 y9 y10 y11 y12 y13 y14 y15 	XX=1
xand_Level0	 0 vdd	z0 0out1 0out2 0out3 0out4 0out5 0out6 0out7 0out8 0out9 0out10 0out11 0out12 0out13 0out14 0out15 0out16 	x0 x1 x2 x3 x4 x5 x6 x7 x8 x9 x10 x11 x12 x13 x14 x15 	y0	AND_ARRAY_SUB XX = XXX
xand_Level1	 0 vdd	1out0 1out1 1out2 1out3 1out4 1out5 1out6 1out7 1out8 1out9 1out10 1out11 1out12 1out13 1out14 1out15 	x0 x1 x2 x3 x4 x5 x6 x7 x8 x9 x10 x11 x12 x13 x14 x15 	y1	AND_ARRAY_SUB XX = XXX
xadd_Level2	 0 vdd	z1 2sum1 2sum2 2sum3 2sum4 2sum5 2sum6 2sum7 2sum8 2sum9 2sum10 2sum11 2sum12 2sum13 2sum14 	2cout0 2cout1 2cout2 2cout3 2cout4 2cout5 2cout6 2cout7 2cout8 2cout9 2cout10 2cout11 2cout12 2cout13 2cout14 	0     0     0     0     0     0     0     0     0     0     0     0     0     0     0     	1out0 1out1 1out2 1out3 1out4 1out5 1out6 1out7 1out8 1out9 1out10 1out11 1out12 1out13 1out14 	0out1 0out2 0out3 0out4 0out5 0out6 0out7 0out8 0out9 0out10 0out11 0out12 0out13 0out14 0out15 		ADD_ARRAY_SUB XX = XXX
xand_Level3	 0 vdd	3out0 3out1 3out2 3out3 3out4 3out5 3out6 3out7 3out8 3out9 3out10 3out11 3out12 3out13 3out14 3out15 	x0 x1 x2 x3 x4 x5 x6 x7 x8 x9 x10 x11 x12 x13 x14 x15 	y1	AND_ARRAY_SUB XX = XXX
xadd_Level4	 0 vdd	z2 4sum1 4sum2 4sum3 4sum4 4sum5 4sum6 4sum7 4sum8 4sum9 4sum10 4sum11 4sum12 4sum13 4sum14 	4cout0 4cout1 4cout2 4cout3 4cout4 4cout5 4cout6 4cout7 4cout8 4cout9 4cout10 4cout11 4cout12 4cout13 4cout14 	2cout0 2cout1 2cout2 2cout3 2cout4 2cout5 2cout6 2cout7 2cout8 2cout9 2cout10 2cout11 2cout12 2cout13 2cout14 	3out0 3out1 3out2 3out3 3out4 3out5 3out6 3out7 3out8 3out9 3out10 3out11 3out12 3out13 3out14 	2sum1 2sum2 2sum3 2sum4 2sum5 2sum6 2sum7 2sum8 2sum9 2sum10 2sum11 2sum12 2sum13 2sum14 1out15 		ADD_ARRAY_SUB XX = XXX
xand_Level5	 0 vdd	5out0 5out1 5out2 5out3 5out4 5out5 5out6 5out7 5out8 5out9 5out10 5out11 5out12 5out13 5out14 5out15 	x0 x1 x2 x3 x4 x5 x6 x7 x8 x9 x10 x11 x12 x13 x14 x15 	y3	AND_ARRAY_SUB XX = XXX
xadd_Level6	 0 vdd	z3 6sum1 6sum2 6sum3 6sum4 6sum5 6sum6 6sum7 6sum8 6sum9 6sum10 6sum11 6sum12 6sum13 6sum14 	6cout0 6cout1 6cout2 6cout3 6cout4 6cout5 6cout6 6cout7 6cout8 6cout9 6cout10 6cout11 6cout12 6cout13 6cout14 	4cout0 4cout1 4cout2 4cout3 4cout4 4cout5 4cout6 4cout7 4cout8 4cout9 4cout10 4cout11 4cout12 4cout13 4cout14 	5out0 5out1 5out2 5out3 5out4 5out5 5out6 5out7 5out8 5out9 5out10 5out11 5out12 5out13 5out14 	4sum1 4sum2 4sum3 4sum4 4sum5 4sum6 4sum7 4sum8 4sum9 4sum10 4sum11 4sum12 4sum13 4sum14 3out15 		ADD_ARRAY_SUB XX = XXX
xand_Level7	 0 vdd	7out0 7out1 7out2 7out3 7out4 7out5 7out6 7out7 7out8 7out9 7out10 7out11 7out12 7out13 7out14 7out15 	x0 x1 x2 x3 x4 x5 x6 x7 x8 x9 x10 x11 x12 x13 x14 x15 	y5	AND_ARRAY_SUB XX = XXX
xadd_Level8	 0 vdd	z4 8sum1 8sum2 8sum3 8sum4 8sum5 8sum6 8sum7 8sum8 8sum9 8sum10 8sum11 8sum12 8sum13 8sum14 	8cout0 8cout1 8cout2 8cout3 8cout4 8cout5 8cout6 8cout7 8cout8 8cout9 8cout10 8cout11 8cout12 8cout13 8cout14 	6cout0 6cout1 6cout2 6cout3 6cout4 6cout5 6cout6 6cout7 6cout8 6cout9 6cout10 6cout11 6cout12 6cout13 6cout14 	7out0 7out1 7out2 7out3 7out4 7out5 7out6 7out7 7out8 7out9 7out10 7out11 7out12 7out13 7out14 	6sum1 6sum2 6sum3 6sum4 6sum5 6sum6 6sum7 6sum8 6sum9 6sum10 6sum11 6sum12 6sum13 6sum14 5out15 		ADD_ARRAY_SUB XX = XXX
xand_Level9	 0 vdd	9out0 9out1 9out2 9out3 9out4 9out5 9out6 9out7 9out8 9out9 9out10 9out11 9out12 9out13 9out14 9out15 	x0 x1 x2 x3 x4 x5 x6 x7 x8 x9 x10 x11 x12 x13 x14 x15 	y7	AND_ARRAY_SUB XX = XXX
xadd_Level10	 0 vdd	z5 10sum1 10sum2 10sum3 10sum4 10sum5 10sum6 10sum7 10sum8 10sum9 10sum10 10sum11 10sum12 10sum13 10sum14 	10cout0 10cout1 10cout2 10cout3 10cout4 10cout5 10cout6 10cout7 10cout8 10cout9 10cout10 10cout11 10cout12 10cout13 10cout14 	8cout0 8cout1 8cout2 8cout3 8cout4 8cout5 8cout6 8cout7 8cout8 8cout9 8cout10 8cout11 8cout12 8cout13 8cout14 	9out0 9out1 9out2 9out3 9out4 9out5 9out6 9out7 9out8 9out9 9out10 9out11 9out12 9out13 9out14 	8sum1 8sum2 8sum3 8sum4 8sum5 8sum6 8sum7 8sum8 8sum9 8sum10 8sum11 8sum12 8sum13 8sum14 7out15 		ADD_ARRAY_SUB XX = XXX
xand_Level11	 0 vdd	11out0 11out1 11out2 11out3 11out4 11out5 11out6 11out7 11out8 11out9 11out10 11out11 11out12 11out13 11out14 11out15 	x0 x1 x2 x3 x4 x5 x6 x7 x8 x9 x10 x11 x12 x13 x14 x15 	y9	AND_ARRAY_SUB XX = XXX
xadd_Level12	 0 vdd	z6 12sum1 12sum2 12sum3 12sum4 12sum5 12sum6 12sum7 12sum8 12sum9 12sum10 12sum11 12sum12 12sum13 12sum14 	12cout0 12cout1 12cout2 12cout3 12cout4 12cout5 12cout6 12cout7 12cout8 12cout9 12cout10 12cout11 12cout12 12cout13 12cout14 	10cout0 10cout1 10cout2 10cout3 10cout4 10cout5 10cout6 10cout7 10cout8 10cout9 10cout10 10cout11 10cout12 10cout13 10cout14 	11out0 11out1 11out2 11out3 11out4 11out5 11out6 11out7 11out8 11out9 11out10 11out11 11out12 11out13 11out14 	10sum1 10sum2 10sum3 10sum4 10sum5 10sum6 10sum7 10sum8 10sum9 10sum10 10sum11 10sum12 10sum13 10sum14 9out15 		ADD_ARRAY_SUB XX = XXX
xand_Level13	 0 vdd	13out0 13out1 13out2 13out3 13out4 13out5 13out6 13out7 13out8 13out9 13out10 13out11 13out12 13out13 13out14 13out15 	x0 x1 x2 x3 x4 x5 x6 x7 x8 x9 x10 x11 x12 x13 x14 x15 	y11	AND_ARRAY_SUB XX = XXX
xadd_Level14	 0 vdd	z7 14sum1 14sum2 14sum3 14sum4 14sum5 14sum6 14sum7 14sum8 14sum9 14sum10 14sum11 14sum12 14sum13 14sum14 	14cout0 14cout1 14cout2 14cout3 14cout4 14cout5 14cout6 14cout7 14cout8 14cout9 14cout10 14cout11 14cout12 14cout13 14cout14 	12cout0 12cout1 12cout2 12cout3 12cout4 12cout5 12cout6 12cout7 12cout8 12cout9 12cout10 12cout11 12cout12 12cout13 12cout14 	13out0 13out1 13out2 13out3 13out4 13out5 13out6 13out7 13out8 13out9 13out10 13out11 13out12 13out13 13out14 	12sum1 12sum2 12sum3 12sum4 12sum5 12sum6 12sum7 12sum8 12sum9 12sum10 12sum11 12sum12 12sum13 12sum14 11out15 		ADD_ARRAY_SUB XX = XXX
xand_Level15	 0 vdd	15out0 15out1 15out2 15out3 15out4 15out5 15out6 15out7 15out8 15out9 15out10 15out11 15out12 15out13 15out14 15out15 	x0 x1 x2 x3 x4 x5 x6 x7 x8 x9 x10 x11 x12 x13 x14 x15 	y13	AND_ARRAY_SUB XX = XXX
xadd_Level16	 0 vdd	z8 16sum1 16sum2 16sum3 16sum4 16sum5 16sum6 16sum7 16sum8 16sum9 16sum10 16sum11 16sum12 16sum13 16sum14 	16cout0 16cout1 16cout2 16cout3 16cout4 16cout5 16cout6 16cout7 16cout8 16cout9 16cout10 16cout11 16cout12 16cout13 16cout14 	14cout0 14cout1 14cout2 14cout3 14cout4 14cout5 14cout6 14cout7 14cout8 14cout9 14cout10 14cout11 14cout12 14cout13 14cout14 	15out0 15out1 15out2 15out3 15out4 15out5 15out6 15out7 15out8 15out9 15out10 15out11 15out12 15out13 15out14 	14sum1 14sum2 14sum3 14sum4 14sum5 14sum6 14sum7 14sum8 14sum9 14sum10 14sum11 14sum12 14sum13 14sum14 13out15 		ADD_ARRAY_SUB XX = XXX
xand_Level17	 0 vdd	17out0 17out1 17out2 17out3 17out4 17out5 17out6 17out7 17out8 17out9 17out10 17out11 17out12 17out13 17out14 17out15 	x0 x1 x2 x3 x4 x5 x6 x7 x8 x9 x10 x11 x12 x13 x14 x15 	y15	AND_ARRAY_SUB XX = XXX
xadd_Level18	 0 vdd	z9 18sum1 18sum2 18sum3 18sum4 18sum5 18sum6 18sum7 18sum8 18sum9 18sum10 18sum11 18sum12 18sum13 18sum14 	18cout0 18cout1 18cout2 18cout3 18cout4 18cout5 18cout6 18cout7 18cout8 18cout9 18cout10 18cout11 18cout12 18cout13 18cout14 	16cout0 16cout1 16cout2 16cout3 16cout4 16cout5 16cout6 16cout7 16cout8 16cout9 16cout10 16cout11 16cout12 16cout13 16cout14 	17out0 17out1 17out2 17out3 17out4 17out5 17out6 17out7 17out8 17out9 17out10 17out11 17out12 17out13 17out14 	16sum1 16sum2 16sum3 16sum4 16sum5 16sum6 16sum7 16sum8 16sum9 16sum10 16sum11 16sum12 16sum13 16sum14 15out15 		ADD_ARRAY_SUB XX = XXX
xand_Level19	 0 vdd	19out0 19out1 19out2 19out3 19out4 19out5 19out6 19out7 19out8 19out9 19out10 19out11 19out12 19out13 19out14 19out15 	x0 x1 x2 x3 x4 x5 x6 x7 x8 x9 x10 x11 x12 x13 x14 x15 	y17	AND_ARRAY_SUB XX = XXX
xadd_Level20	 0 vdd	z10 20sum1 20sum2 20sum3 20sum4 20sum5 20sum6 20sum7 20sum8 20sum9 20sum10 20sum11 20sum12 20sum13 20sum14 	20cout0 20cout1 20cout2 20cout3 20cout4 20cout5 20cout6 20cout7 20cout8 20cout9 20cout10 20cout11 20cout12 20cout13 20cout14 	18cout0 18cout1 18cout2 18cout3 18cout4 18cout5 18cout6 18cout7 18cout8 18cout9 18cout10 18cout11 18cout12 18cout13 18cout14 	19out0 19out1 19out2 19out3 19out4 19out5 19out6 19out7 19out8 19out9 19out10 19out11 19out12 19out13 19out14 	18sum1 18sum2 18sum3 18sum4 18sum5 18sum6 18sum7 18sum8 18sum9 18sum10 18sum11 18sum12 18sum13 18sum14 17out15 		ADD_ARRAY_SUB XX = XXX
xand_Level21	 0 vdd	21out0 21out1 21out2 21out3 21out4 21out5 21out6 21out7 21out8 21out9 21out10 21out11 21out12 21out13 21out14 21out15 	x0 x1 x2 x3 x4 x5 x6 x7 x8 x9 x10 x11 x12 x13 x14 x15 	y19	AND_ARRAY_SUB XX = XXX
xadd_Level22	 0 vdd	z11 22sum1 22sum2 22sum3 22sum4 22sum5 22sum6 22sum7 22sum8 22sum9 22sum10 22sum11 22sum12 22sum13 22sum14 	22cout0 22cout1 22cout2 22cout3 22cout4 22cout5 22cout6 22cout7 22cout8 22cout9 22cout10 22cout11 22cout12 22cout13 22cout14 	20cout0 20cout1 20cout2 20cout3 20cout4 20cout5 20cout6 20cout7 20cout8 20cout9 20cout10 20cout11 20cout12 20cout13 20cout14 	21out0 21out1 21out2 21out3 21out4 21out5 21out6 21out7 21out8 21out9 21out10 21out11 21out12 21out13 21out14 	20sum1 20sum2 20sum3 20sum4 20sum5 20sum6 20sum7 20sum8 20sum9 20sum10 20sum11 20sum12 20sum13 20sum14 19out15 		ADD_ARRAY_SUB XX = XXX
xand_Level23	 0 vdd	23out0 23out1 23out2 23out3 23out4 23out5 23out6 23out7 23out8 23out9 23out10 23out11 23out12 23out13 23out14 23out15 	x0 x1 x2 x3 x4 x5 x6 x7 x8 x9 x10 x11 x12 x13 x14 x15 	y21	AND_ARRAY_SUB XX = XXX
xadd_Level24	 0 vdd	z12 24sum1 24sum2 24sum3 24sum4 24sum5 24sum6 24sum7 24sum8 24sum9 24sum10 24sum11 24sum12 24sum13 24sum14 	24cout0 24cout1 24cout2 24cout3 24cout4 24cout5 24cout6 24cout7 24cout8 24cout9 24cout10 24cout11 24cout12 24cout13 24cout14 	22cout0 22cout1 22cout2 22cout3 22cout4 22cout5 22cout6 22cout7 22cout8 22cout9 22cout10 22cout11 22cout12 22cout13 22cout14 	23out0 23out1 23out2 23out3 23out4 23out5 23out6 23out7 23out8 23out9 23out10 23out11 23out12 23out13 23out14 	22sum1 22sum2 22sum3 22sum4 22sum5 22sum6 22sum7 22sum8 22sum9 22sum10 22sum11 22sum12 22sum13 22sum14 21out15 		ADD_ARRAY_SUB XX = XXX
xand_Level25	 0 vdd	25out0 25out1 25out2 25out3 25out4 25out5 25out6 25out7 25out8 25out9 25out10 25out11 25out12 25out13 25out14 25out15 	x0 x1 x2 x3 x4 x5 x6 x7 x8 x9 x10 x11 x12 x13 x14 x15 	y23	AND_ARRAY_SUB XX = XXX
xadd_Level26	 0 vdd	z13 26sum1 26sum2 26sum3 26sum4 26sum5 26sum6 26sum7 26sum8 26sum9 26sum10 26sum11 26sum12 26sum13 26sum14 	26cout0 26cout1 26cout2 26cout3 26cout4 26cout5 26cout6 26cout7 26cout8 26cout9 26cout10 26cout11 26cout12 26cout13 26cout14 	24cout0 24cout1 24cout2 24cout3 24cout4 24cout5 24cout6 24cout7 24cout8 24cout9 24cout10 24cout11 24cout12 24cout13 24cout14 	25out0 25out1 25out2 25out3 25out4 25out5 25out6 25out7 25out8 25out9 25out10 25out11 25out12 25out13 25out14 	24sum1 24sum2 24sum3 24sum4 24sum5 24sum6 24sum7 24sum8 24sum9 24sum10 24sum11 24sum12 24sum13 24sum14 23out15 		ADD_ARRAY_SUB XX = XXX
xand_Level27	 0 vdd	27out0 27out1 27out2 27out3 27out4 27out5 27out6 27out7 27out8 27out9 27out10 27out11 27out12 27out13 27out14 27out15 	x0 x1 x2 x3 x4 x5 x6 x7 x8 x9 x10 x11 x12 x13 x14 x15 	y25	AND_ARRAY_SUB XX = XXX
xadd_Level28	 0 vdd	z14 28sum1 28sum2 28sum3 28sum4 28sum5 28sum6 28sum7 28sum8 28sum9 28sum10 28sum11 28sum12 28sum13 28sum14 	28cout0 28cout1 28cout2 28cout3 28cout4 28cout5 28cout6 28cout7 28cout8 28cout9 28cout10 28cout11 28cout12 28cout13 28cout14 	26cout0 26cout1 26cout2 26cout3 26cout4 26cout5 26cout6 26cout7 26cout8 26cout9 26cout10 26cout11 26cout12 26cout13 26cout14 	27out0 27out1 27out2 27out3 27out4 27out5 27out6 27out7 27out8 27out9 27out10 27out11 27out12 27out13 27out14 	26sum1 26sum2 26sum3 26sum4 26sum5 26sum6 26sum7 26sum8 26sum9 26sum10 26sum11 26sum12 26sum13 26sum14 25out15 		ADD_ARRAY_SUB XX = XXX
xand_Level29	 0 vdd	29out0 29out1 29out2 29out3 29out4 29out5 29out6 29out7 29out8 29out9 29out10 29out11 29out12 29out13 29out14 29out15 	x0 x1 x2 x3 x4 x5 x6 x7 x8 x9 x10 x11 x12 x13 x14 x15 	y27	AND_ARRAY_SUB XX = XXX
xadd_Level30	 0 vdd	z15 30sum1 30sum2 30sum3 30sum4 30sum5 30sum6 30sum7 30sum8 30sum9 30sum10 30sum11 30sum12 30sum13 30sum14 	30cout0 30cout1 30cout2 30cout3 30cout4 30cout5 30cout6 30cout7 30cout8 30cout9 30cout10 30cout11 30cout12 30cout13 30cout14 	28cout0 28cout1 28cout2 28cout3 28cout4 28cout5 28cout6 28cout7 28cout8 28cout9 28cout10 28cout11 28cout12 28cout13 28cout14 	29out0 29out1 29out2 29out3 29out4 29out5 29out6 29out7 29out8 29out9 29out10 29out11 29out12 29out13 29out14 	28sum1 28sum2 28sum3 28sum4 28sum5 28sum6 28sum7 28sum8 28sum9 28sum10 28sum11 28sum12 28sum13 28sum14 27out15 		ADD_ARRAY_SUB XX = XXX
xadd_Level31	 0 vdd	z16 z17    z18    z20    z23    z27    z32    z38    z45    z53    z62    z72    z83    z95    z108    	31cout0 31cout1 31cout2 31cout3 31cout4 31cout5 31cout6 31cout7 31cout8 31cout9 31cout10 31cout11 31cout12 31cout13 z109    	0     31cout0 31cout1 31cout2 31cout3 31cout4 31cout5 31cout6 31cout7 31cout8 31cout9 31cout10 31cout11 31cout12 31cout13 	30cout0 30cout1 30cout2 30cout3 30cout4 30cout5 30cout6 30cout7 30cout8 30cout9 30cout10 30cout11 30cout12 30cout13 30cout14 	29sum1 29sum2 29sum3 29sum4 29sum5 29sum6 29sum7 29sum8 29sum9 29sum10 29sum11 29sum12 29sum13 29sum14 28out15 	ADD_ARRAY_SUB XX = XXX
	.ends 

xmcs16 0 Vcc xz0 xz1 xz2 xz3 xz4 xz5 xz6 xz7 xz8 xz9 xz10 xz11 xz12 xz13 xz14 xz15 xz16 xz17 xz18 xz19 xz20 xz21 xz22 xz23 xz24 xz25 xz26 xz27 xz28 xz29 xz30 xz31 xx0 xx1 xx2 xx3 xx4 xx5 xx6 xx7 xx8 xx9 xx10 xx11 xx12 xx13 xx14 xx15 xy0 xy1 xy2 xy3 xy4 xy5 xy6 xy7 xy8 xy9 xy10 xy11 xy12 xy13 xy14 xy15 MCS_SUB XX = XXX

.TRAN 0.1p 500p
VinX15 X15 0 0
VinX14 X14 0 0
VinX13 X13 0 0
VinX12 X12 0 0
VinX11 X11 0 0
VinX10 X10 0 0
VinX9 X9 0 0
VinX8 X8 0 0
VinX7 X7 0 0
VinX6 X6 0 0
VinX5 X5 0 0
VinX4 X4 0 0
VinX3 X3 0 0
VinX2 X2 0 1
VinX1 X1 0 0
VinX0 X0 0 1
VinY15 Y15 0 0
VinY14 Y14 0 0
VinY13 Y13 0 0
VinY12 Y12 0 0
VinY11 Y11 0 0
VinY10 Y10 0 0
VinY9 Y9 0 0
VinY8 Y8 0 0
VinY7 Y7 0 0
VinY6 Y6 0 0
VinY5 Y5 0 0
VinY4 Y4 0 0
VinY3 Y3 0 0
VinY2 Y2 0 1
VinY1 Y1 0 0
VinY0 Y0 0 1
V_dd Vcc 0 1
.end