*MOLTIPLICATORE CARRY SAVE

.option filetype=ascii

.INCLUDE ST65LIKE_cell_library_v2020_1.net
.INCLUDE 16nm_HP.pm
.INCLUDE param.net

.subckt AND_ARRAY_SUB	0 Vdd out0 out1 out2 out3 out4 out5 out6 out7 x0 x1 x2 x3 x4 x5 x6 x7 y	XX=1
xand0	0 Vdd out0 x0 y	AND2_SUB XX=XXX
xand1	0 Vdd out1 x1 y	AND2_SUB XX=XXX
xand2	0 Vdd out2 x2 y	AND2_SUB XX=XXX
xand3	0 Vdd out3 x3 y	AND2_SUB XX=XXX
xand4	0 Vdd out4 x4 y	AND2_SUB XX=XXX
xand5	0 Vdd out5 x5 y	AND2_SUB XX=XXX
xand6	0 Vdd out6 x6 y	AND2_SUB XX=XXX
xand7	0 Vdd out7 x7 y	AND2_SUB XX=XXX
.ends 

.subckt ADD_ARRAY_SUB	0 Vdd sum0 sum1 sum2 sum3 sum4 sum5 sum6 sum7  Cout0  Cout1  Cout2  Cout3  Cout4  Cout5  Cout6  Cout7 a0 a1 a2 a3 a4 a5 a6 a7 b0 b1 b2 b3 b4 b5 b6 b7 	XX=1
xadd0	 0 vdd sum0 cout0 cin0 b0 a0	 FA_SUB XX=XXX
xadd1	 0 vdd sum1 cout1 cin1 b1 a1	 FA_SUB XX=XXX
xadd2	 0 vdd sum2 cout2 cin2 b2 a2	 FA_SUB XX=XXX
xadd3	 0 vdd sum3 cout3 cin3 b3 a3	 FA_SUB XX=XXX
xadd4	 0 vdd sum4 cout4 cin4 b4 a4	 FA_SUB XX=XXX
xadd5	 0 vdd sum5 cout5 cin5 b5 a5	 FA_SUB XX=XXX
xadd6	 0 vdd sum6 cout6 cin6 b6 a6	 FA_SUB XX=XXX
xadd7	 0 vdd sum7 cout7 cin7 b7 a7	 FA_SUB XX=XXX
.ends 

.subckt MCS_SUB	0 Vdd out0 x1 z2 x3 y4 (null)5 sum6  Cout7 out0 x1 z2 x3 y4 (null)5 sum6  Cout7 out0 x1 z2 x3 y4 (null)5 sum6  Cout7 	XX=1
xand_Level0	 0 vdd	z0 0out1 0out2 0out3 0out4 0out5 0out6 0out7 0out8 	x0 x1 x2 x3 x4 x5 x6 x7 	y0	AND_ARRAY_SUB XX = XXX
xand_Level1	 0 vdd	1out0 1out1 1out2 1out3 1out4 1out5 1out6 1out7 	x0 x1 x2 x3 x4 x5 x6 x7 	y1	AND_ARRAY_SUB XX = XXX
xadd_Level2	 0 vdd	z1 2sum1 2sum2 2sum3 2sum4 2sum5 2sum6 	2cout0 2cout1 2cout2 2cout3 2cout4 2cout5 2cout6 	0     0     0     0     0     0     0     	1out0 1out1 1out2 1out3 1out4 1out5 1out6 	0out1 0out2 0out3 0out4 0out5 0out6 0out7 		ADD_ARRAY_SUB XX = XXX
xand_Level3	 0 vdd	3out0 3out1 3out2 3out3 3out4 3out5 3out6 3out7 	x0 x1 x2 x3 x4 x5 x6 x7 	y1	AND_ARRAY_SUB XX = XXX
xadd_Level4	 0 vdd	z2 4sum1 4sum2 4sum3 4sum4 4sum5 4sum6 	4cout0 4cout1 4cout2 4cout3 4cout4 4cout5 4cout6 	2cout0 2cout1 2cout2 2cout3 2cout4 2cout5 2cout6 	3out0 3out1 3out2 3out3 3out4 3out5 3out6 	2sum1 2sum2 2sum3 2sum4 2sum5 2sum6 1out7 		ADD_ARRAY_SUB XX = XXX
xand_Level5	 0 vdd	5out0 5out1 5out2 5out3 5out4 5out5 5out6 5out7 	x0 x1 x2 x3 x4 x5 x6 x7 	y3	AND_ARRAY_SUB XX = XXX
xadd_Level6	 0 vdd	z3 6sum1 6sum2 6sum3 6sum4 6sum5 6sum6 	6cout0 6cout1 6cout2 6cout3 6cout4 6cout5 6cout6 	4cout0 4cout1 4cout2 4cout3 4cout4 4cout5 4cout6 	5out0 5out1 5out2 5out3 5out4 5out5 5out6 	4sum1 4sum2 4sum3 4sum4 4sum5 4sum6 3out7 		ADD_ARRAY_SUB XX = XXX
xand_Level7	 0 vdd	7out0 7out1 7out2 7out3 7out4 7out5 7out6 7out7 	x0 x1 x2 x3 x4 x5 x6 x7 	y5	AND_ARRAY_SUB XX = XXX
xadd_Level8	 0 vdd	z4 8sum1 8sum2 8sum3 8sum4 8sum5 8sum6 	8cout0 8cout1 8cout2 8cout3 8cout4 8cout5 8cout6 	6cout0 6cout1 6cout2 6cout3 6cout4 6cout5 6cout6 	7out0 7out1 7out2 7out3 7out4 7out5 7out6 	6sum1 6sum2 6sum3 6sum4 6sum5 6sum6 5out7 		ADD_ARRAY_SUB XX = XXX
xand_Level9	 0 vdd	9out0 9out1 9out2 9out3 9out4 9out5 9out6 9out7 	x0 x1 x2 x3 x4 x5 x6 x7 	y7	AND_ARRAY_SUB XX = XXX
xadd_Level10	 0 vdd	z5 10sum1 10sum2 10sum3 10sum4 10sum5 10sum6 	10cout0 10cout1 10cout2 10cout3 10cout4 10cout5 10cout6 	8cout0 8cout1 8cout2 8cout3 8cout4 8cout5 8cout6 	9out0 9out1 9out2 9out3 9out4 9out5 9out6 	8sum1 8sum2 8sum3 8sum4 8sum5 8sum6 7out7 		ADD_ARRAY_SUB XX = XXX
xand_Level11	 0 vdd	11out0 11out1 11out2 11out3 11out4 11out5 11out6 11out7 	x0 x1 x2 x3 x4 x5 x6 x7 	y9	AND_ARRAY_SUB XX = XXX
xadd_Level12	 0 vdd	z6 12sum1 12sum2 12sum3 12sum4 12sum5 12sum6 	12cout0 12cout1 12cout2 12cout3 12cout4 12cout5 12cout6 	10cout0 10cout1 10cout2 10cout3 10cout4 10cout5 10cout6 	11out0 11out1 11out2 11out3 11out4 11out5 11out6 	10sum1 10sum2 10sum3 10sum4 10sum5 10sum6 9out7 		ADD_ARRAY_SUB XX = XXX
xand_Level13	 0 vdd	13out0 13out1 13out2 13out3 13out4 13out5 13out6 13out7 	x0 x1 x2 x3 x4 x5 x6 x7 	y11	AND_ARRAY_SUB XX = XXX
xadd_Level14	 0 vdd	z7 14sum1 14sum2 14sum3 14sum4 14sum5 14sum6 	14cout0 14cout1 14cout2 14cout3 14cout4 14cout5 14cout6 	12cout0 12cout1 12cout2 12cout3 12cout4 12cout5 12cout6 	13out0 13out1 13out2 13out3 13out4 13out5 13out6 	12sum1 12sum2 12sum3 12sum4 12sum5 12sum6 11out7 		ADD_ARRAY_SUB XX = XXX
xadd_Level15	 0 vdd	z8 z9    z10    z12    z15    z19    z24    	15cout0 15cout1 15cout2 15cout3 15cout4 15cout5 z25    	0     15cout0 15cout1 15cout2 15cout3 15cout4 15cout5 	14cout0 14cout1 14cout2 14cout3 14cout4 14cout5 14cout6 	13sum1 13sum2 13sum3 13sum4 13sum5 13sum6 12out7 	ADD_ARRAY_SUB XX = XXX
	.ends 

xmcs8 0 Vcc xz0 xz1 xz2 xz3 xz4 xz5 xz6 xz7 xz8 xz9 xz10 xz11 xz12 xz13 xz14 xz15 xx0 xx1 xx2 xx3 xx4 xx5 xx6 xx7 xy0 xy1 xy2 xy3 xy4 xy5 xy6 xy7 MCS_SUB XX = XXX

.TRAN 0.1p 500p
VinX7 X7 0 0
VinX6 X6 0 1
VinX5 X5 0 1
VinX4 X4 0 0
VinX3 X3 0 0
VinX2 X2 0 0
VinX1 X1 0 0
VinX0 X0 0 0
VinY7 Y7 0 0
VinY6 Y6 0 0
VinY5 Y5 0 0
VinY4 Y4 0 0
VinY3 Y3 0 0
VinY2 Y2 0 1
VinY1 Y1 0 0
VinY0 Y0 0 1
V_dd Vcc 0 1
.end